US09102688B2
N-(6-Chloro-quinolin-8-yl)-benzenesulfonamide (Example Compound 28)
In a similar fashion using route 14 general procedure 26, benzenesulfonyl chloride (72 μl, 0.57 mmol), 6-chloroquinolin-8-ylamine (67 mg, 0.38 mmol) in pyridine (150 μl, 1.89 mmol) gave the title compound (73 mg, 61%) after trituration from DMSO/MeOH (1:2).

reactant | benzenesulfonyl chloride | 0.57 mmol, 72 μl | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 6-chloroquinolin-8-ylamine | 0.38 mmol, 67 mg | ClC=1C=C2C=CC=NC2=C(C1)N | C9H7ClN2
reactant | pyridine | 1.89 mmol, 150 μl | N1=CC=CC=C1 | C5H5N
solvent | DMSO MeOH | CS(=O)C.CO
product | N-(6-Chloro-quinolin-8-yl)-benzenesulfonamide | 73 mg, 61% | ClC=1C=C2C=CC=NC2=C(C1)NS(=O)(=O)C1=CC=CC=C1 | C15H11ClN2O2S
